US07592477B2
11-[4-({(carboxycarbonyl)[4-(trifluoromethyl)benzyl]amino}-methyl)-phenyl]undecanoic acid
The same procedure as employed in the preparation of Example 1 (step c) but using 11-[4-({(carboxycarbonyl)[4-(trifluoromethyl)benzyl]amino}methyl)phenyl]undec-10-ynoic acid in EtOAc gave the title compound as a colorless oil (20%). M−(LC/MS(ESI)): 520. HPLC (Condition A), Rt: 5.03 min (HPLC purity: 96.1%).

reactant | 11-[4-({(carboxycarbonyl)[4-(trifluoromethyl)benzyl]amino}methyl)phenyl]undec-10-ynoic acid | C(=O)(O)C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C#CCCCCCCCCC(=O)O | C28H30F3NO5
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 11-[4-({(carboxycarbonyl)[4-(trifluoromethyl)benzyl]amino}-methyl)-phenyl]undecanoic acid | 20% | C(=O)(O)C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)CCCCCCCCCCC(=O)O | C28H34F3NO5
